US05661147
4-benzylamino-7-chloro-6-nitroquinazoline
7-Chloro-6-nitro-4(3H)-quinazolone [J. Org. Chem., 40, 356 (1975) etc.] (10 g, 54.8 mmol) was added to phosphorus oxychloride (40 ml) under ice-cooling. A temperature of the mixture was gradually raised and the mixture was refluxed for 2 hours. After evaporation of the solvent under reduced pressure, a solution of triethylamine (200 ml, 1.43 mol) and benzylamine (40 ml, 366 mmol) dissolved in tetrahydrofuran (500 ml) was added to the residue under ice-cooling. A temperature of the mixture was raised to room temperature and the mixture was stirred overnight. After evaporation of the solvent under reduced pressure, water and chloroform were added and the organic layer was separated. The aqueous layer was extracted with chloroform and the chloroform layer was combined with the organic layer. The combined organic layer was washed with water and dried over anhydrous magnesium sulfate. After evaporation of the solvent under reduced pressure, a mixed solvent of methanol and water was added thereto. The precipitated crystals were filtered off to give the title compound (8.55 g, 49.6%).

reactant | 7-Chloro-6-nitro-4(3H)-quinazolone | 54.8 mmol, 10 g | ClC1=C(C=C2C(NC=NC2=C1)=O)[N+](=O)[O-] | C8H4ClN3O3
reactant | phosphorus oxychloride | 40 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 1.43 mol, 200 ml | C(C)N(CC)CC | C6H15N
reactant | benzylamine | 366 mmol, 40 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 4-benzylamino-7-chloro-6-nitroquinazoline | 8.55 g, 49.6% | C(C1=CC=CC=C1)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])Cl | C15H11ClN4O2
